US07964608B2
4-(3-Benzo[1,3]dioxol-5-yl-7-methoxy-2,4-dioxo-3,4-dihydro-2H-pyrimido[5,4-c]quinolin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (110 mg) was prepared from 4-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.31 mmol) and 5-isocyanato-benzo[1,3]dioxole (0.465 mmol) following general procedure C. LCMS: m/z 547 [M+1]+.

reactant | 4-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.31 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCN(CC1)C(=O)OC(C)(C)C)OC | C23H31N3O5
reactant | 5-isocyanato-benzo[1,3]dioxole | 0.465 mmol | N(=C=O)C1=CC2=C(OCO2)C=C1 | C8H5NO3
product | 4-(3-Benzo[1,3]dioxol-5-yl-7-methoxy-2,4-dioxo-3,4-dihydro-2H-pyrimido[5,4-c]quinolin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 110 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CC1=C(OCO1)C=C2)=O | C29H30N4O7
